* C:\Users\thoma\Documents\GitHub\Projet5ArobotInfirmier\LTSpice\spice capteurs\Capteurs V1\capteurs.asc
D§R 0 N003 D
D§iR 0 N004 D
R1 N002 N003 50
R2 N002 N004 50
V1 N002 0 5
I1 N001 0 1m
R3 Vs N001 1k
V2 12 0 12
XU1 0 N001 12 0 Vs level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc I1 1m 10m 0.1m
.lib UniversalOpamps2.sub
.backanno
.end
